US06251947B1
Step C: Preparation of (R)-2-[2-(2,5-difluorophenoxy)-1-methylethyl]-1H-isoindole-1,3(2H)-dione
A solution of 15.8 g (77 mmol) of (R)-2-(2-hydroxy-1-methylethyl)-1H-isoindole-1,3(2H)-dione, 24.2 g (92 mmol) of triphenylphosphine and 10.0 g (77 mmol) of 2,5-difluorophenol was stirred while 18.2 mL (116 mmol) of diethylazodicarboxylate was added dropwise. After stirring at ambient temperature overnight, solvent was removed and the residue was dissolved in ethyl acetate. The ethyl acetate was washed with water and brine. Drying (MgSO4) and removal of solvent gave an oil which was chromatographed on silica gel to give 15.6 g of the title compound of Step C as an oil, 1H NMR (CDCl3) δ 1.55 (d, 3H), 4.25 (m, 1H), 4.8 (m, 1H), 6.55 (m, 1H), 6.65 (m, 1H), 6.9 (m, 1H), 7.7 (m, 2H), 7.85 (m, 2H).

reactant | (R)-2-(2-hydroxy-1-methylethyl)-1H-isoindole-1,3(2H)-dione | 77 mmol, 15.8 g | OC[C@@H](C)N1C(C2=CC=CC=C2C1=O)=O | C11H11NO3
reactant | triphenylphosphine | 92 mmol, 24.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,5-difluorophenol | 77 mmol, 10.0 g | FC1=C(C=C(C=C1)F)O | C6H4F2O
reactant | diethylazodicarboxylate | 116 mmol, 18.2 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | (R)-2-[2-(2,5-difluorophenoxy)-1-methylethyl]-1H-isoindole-1,3(2H)-dione | 15.6 g | FC1=C(OC[C@@H](C)N2C(C3=CC=CC=C3C2=O)=O)C=C(C=C1)F | C17H13F2NO3
